US06919377B2
To a stirred solution of trans-4-[4-(3-phenylpropyl amino) cyclohexyl]-phenol and acetone (2 mL) in a 2:1 mixture of THF:MeOH (10 mL) was added sodium cyanoborohydride (153 mg, 2.42 mmol). The reaction mixture was heated to 60° C. and the acidity was maintained by the addition of acetic acid. The mixture was stirred overnight, quenched with 2N NaOH and concentrated under reduced pressure. Purification by flash chromatography (90:9:1 CH2Cl2:MeOH:NH4OH) gave trans-4-{4-[N-isopropyl-N-(3-phenylpropyl) amino]cyclohexyl}phenol (130 mg, 48%), as a white solid: mp 146-154° C.; IR (KBr): 3198, 2941, 1613 cm−1; 1H NMR (500 MHz, DMSO-d6) δ or s δ 7.32-7.21 (m, 5H), 6.98 (d, J=8 Hz, 2H), 6.66 (d, J=8 Hz, 2H), 3.67 (m, 1H), 3.28 (m, 2H), 3.10 (m, 2H), 2.66 (m, 2H), 2.48 (m, 1H), 2.04 (m, 1H), 2.02 (m, 2H), 1.84 (m, 2H), 1.83 (m, 2H), 1.49 (m, 2H), 1.24 (d, J=8 Hz, 3H), 1.19 (d, J=8 Hz, 3H); CI-MS (methane) (m/z): 352 [M+H]+; HRMS-API (m/z): [M+H]+ Calcd for C24H33NO, 352.2640. found: 352.2637. HPLC: method A, 6.37 minutes (95.3%); method B, 10.85 minutes (100%); Anal. Calcd for C24H33NO.HCl.0.5 NaCl: C, 69.09; H, 8.21; N, 3.36. Found: C, 69.33; H, 8.32; N, 3.22.

reactant | trans-4-[4-(3-phenylpropyl amino) cyclohexyl]-phenol | C1(=CC=CC=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C21H27NO
reactant | acetone | 2 mL | CC(=O)C | C3H6O
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium cyanoborohydride | 2.42 mmol, 153 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
product | trans-4-{4-[N-isopropyl-N-(3-phenylpropyl) amino]cyclohexyl}phenol | 130 mg, 48% | C(C)(C)N(CCCC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C24H33NO
